US07846887B2
Methyl 2-(4-oxo-4-(2,6,6-trimethylcyclohex-3-enyl)butan-2-ylamino)-3-(4-oxo-4-(2,6,6-trimethylcyclohex-3-enyl)butan-2-ylthio)propanoate (Compound 1)
A solution of 1-(2,6,6-trimethylcyclohex-3-enyl)but-2-en-1-one (19.28 g, 100 mmol, 2 equiv.), ethyl diisopropylamine (6.45 g, 50 mmol, 1 equiv.) and L-Cystein methyl ester hydrochloride (8.60 g, 50 mmol, 1 equiv.) in MeOH (120 ml) is heated to reflux during 28 h. The solvent is removed in vacuo and the residue dissolved in methyl t-butyl ether. The solution is washed with dilute aq. NaCl, dried over MgSO4 and concentrated. The residue is purified by chromatography on SiO2 to yield 21.3 g (82%) of the title compound as yellowish, viscous oil.

reactant | 1-(2,6,6-trimethylcyclohex-3-enyl)but-2-en-1-one | 100 mmol, 19.28 g, 2 equiv. | CC1C(C(CC=C1)(C)C)C(C=CC)=O | C13H20O
reactant | ethyl diisopropylamine | 50 mmol, 6.45 g, 1 equiv. | C(C)N(C(C)C)C(C)C | C8H19N
reactant | L-Cystein methyl ester hydrochloride | 50 mmol, 8.60 g, 1 equiv. | Cl.COC([C@@H](N)CS)=O
solvent | MeOH | 120 ml | CO | CH4O
product | Methyl 2-(4-oxo-4-(2,6,6-trimethylcyclohex-3-enyl)butan-2-ylamino)-3-(4-oxo-4-(2,6,6-trimethylcyclohex-3-enyl)butan-2-ylthio)propanoate | 21.3 g, 82% | O=C(CC(C)NC(C(=O)OC)CSC(C)CC(C1C(C=CCC1(C)C)C)=O)C1C(C=CCC1(C)C)C | C30H49NO4S
